US04579854
27 g of 5-acetyl-8-hydroxyquinoline hydrochloride are dissolved in 540 ml of anhydrous dimethylformamide and 50 g of powdered potassium carbonate are added thereto. 18.4 g of benzyl chloride are added to the mixture at 50° C. under an argon atmosphere, and the mixture is stirred at the same temperature for 4.5 hours and then further stirred at room temperature for 1.5 hours. After the reaction, water is added to the mixture, and the aqueous mixture is extracted with ethyl acetate. The extract is washed with water, a saturated sodium chloride solution, dried and then evaporated under reduced pressure to remove ethyl acetate. The residue is recrystallized from ethanol. 19.1 g of 5-acetyl-8-benzyloxyquinoline are obtained as brownish prisms. 6.35 g of said product are further recovered from the mother liquor.

reactant | 5-acetyl-8-hydroxyquinoline hydrochloride | 27 g | Cl.C(C)(=O)C1=C2C=CC=NC2=C(C=C1)O
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 18.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | O | H2O
solvent | dimethylformamide | 540 ml | CN(C=O)C | C3H7NO
product | 5-acetyl-8-benzyloxyquinoline | 19.1 g | C(C)(=O)C1=C2C=CC=NC2=C(C=C1)OCC1=CC=CC=C1 | C18H15NO2
